US07875606B2
A solution of 11.1 g (52.8 mmoles) of 1-ethyl-5-fluoro-3-trifluoromethyl-1H-pyrazole-4-carboaldehyde dissolved in 50 ml of methanol was cooled to 0° C. Thereto was gradually added 2.1 g (55.5 mmoles) of sodium borohydride. The mixture was stirred at room temperature for 3 hours to give rise to a reaction. After the completion of the reaction, the reaction mixture was poured into water and extraction with diethyl ether was conducted. The resulting organic layer was washed with an aqueous sodium chloride solution and then dried over anhydrous magnesium sulfate. The resulting solution was subjected to reduced pressure distillation to remove the solvent contained therein, to obtain 9.1 g (yield: 81.3%) of (1-ethyl-5-fluoro-3-trifluoromethyl-1H-pyrazol-4-yl)-methanol.

reactant | 1-ethyl-5-fluoro-3-trifluoromethyl-1H-pyrazole-4-carboaldehyde | 52.8 mmoles, 11.1 g | C(C)N1N=C(C(=C1F)C=O)C(F)(F)F | C7H6F4N2O
reactant | sodium borohydride | 55.5 mmoles, 2.1 g | [BH4-].[Na+]
reactant | water | O | H2O
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | methanol | 50 ml | CO | CH4O
product | (1-ethyl-5-fluoro-3-trifluoromethyl-1H-pyrazol-4-yl)-methanol | 9.1 g, yield: 81.3% | C(C)N1N=C(C(=C1F)CO)C(F)(F)F | C7H8F4N2O
